US07138414B2
c) 1-(2-chloro-4-fluorobenzoyl)-3-[2-methyl-4-(3-methyl-5-oxo-2,5-dihydropyrazol-1-yl)phenyl]urea
The solution of equivalent amounts of 2-chloro-4-fluorobenzoyl isocyanate in acetonitrile was added dropwise to the solution of 71 mg of 2-(4-amino-3-methylphenyl)-5-methyl-1,2-dihydropyrazol-3-one in 6 ml of acetonitrile and the mixture was stirred at room temperature overnight. The solid formed was filtered off with suction and dried under reduced pressure.

reactant | 2-chloro-4-fluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=CC(=C1)F | C8H3ClFNO2
reactant | 2-(4-amino-3-methylphenyl)-5-methyl-1,2-dihydropyrazol-3-one | 71 mg | NC1=C(C=C(C=C1)N1NC(=CC1=O)C)C | C11H13N3O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 1-(2-chloro-4-fluorobenzoyl)-3-[2-methyl-4-(3-methyl-5-oxo-2,5-dihydropyrazol-1-yl)phenyl]urea | ClC1=C(C(=O)NC(=O)NC2=C(C=C(C=C2)N2NC(=CC2=O)C)C)C=CC(=C1)F | C19H16ClFN4O3
